US07642278B2
Synthesis of 9-Isopropyl-1-oxa-4,9-diaza-spiro[5.5]undecane
9-Isopropyl-1-oxa-4,9-diaza-spiro[5.5]undecan-3-one was dissolved in THF and LiA1H4 (5 equivalents) was added. The reaction was heated at reflux for 4 hours and then cooled to room temperature. NaF (20 equivalents) and water (5 equivalents) were added and the reaction was stirred vigorously for 1 hour. The resulting precipitate was filtered away and the filtrate was concentrated to provide the title compound as a colorless oil. GC/MS (m/z) 198, Rt=12.57 minutes.

reactant | 9-Isopropyl-1-oxa-4,9-diaza-spiro[5.5]undecan-3-one | C(C)(C)N1CCC2(CNC(CO2)=O)CC1 | C11H20N2O2
reactant | NaF | 20 equivalents | [F-].[Na+]
reactant | water | 5 equivalents | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 9-Isopropyl-1-oxa-4,9-diaza-spiro[5.5]undecane | C(C)(C)N1CCC2(CNCCO2)CC1 | C11H22N2O
